US08877934B2
Step E: 1,3-Dimethyl-4-[2-[[(E)-4,4,4-trifluorobut-2-enoyl]amino]ethylamino]pyrazolo-[3,4-b]-pyridine-5-carboxamide
(E)-4,4,4-Trifluorobut-2-enoic acid (21 mg, 0.15 mmol) was dissolved in DCM (2 ml containing one drop of dimethyl formamide), oxalyl chloride was added (19 mg, 0.15 mmol) and the solution was stirred at room temperature for 15 minutes. This solution was added to a solution of 4-(2-aminoethylamino)-1,3-dimethyl-pyrazolo[3,4-b]pyridine-5-carboxamide trifluoromethanesulfonate (40 mg, 0.1 mmol) and diisopropylethylamine (60 μl, 0.35 mmol) dissolved in dimethylformamide (1 ml) and the resulting mixture was stirred at room temperature overnight. The volatiles were removed under reduced pressure and the residue was purified by preparative HPLC (gradient of water containing 0.1% NH3 and acetonitrile) to yield 2.1 mg (0.005 mmol, 5.7%).

reactant | (E)-4,4,4-Trifluorobut-2-enoic acid | 0.15 mmol, 21 mg | FC(/C=C/C(=O)O)(F)F | C4H3F3O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(2-aminoethylamino)-1,3-dimethyl-pyrazolo[3,4-b]pyridine-5-carboxamide trifluoromethanesulfonate | 0.1 mmol, 40 mg | FC(S(=O)(=O)O)(F)F.NCCNC1=C2C(=NC=C1C(=O)N)N(N=C2C)C
reactant | diisopropylethylamine | 0.35 mmol, 60 μl | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1,3-Dimethyl-4-[2-[[(E)-4,4,4-trifluorobut-2-enoyl]amino]ethylamino]pyrazolo-[3,4-b]-pyridine-5-carboxamide | CN1N=C(C=2C1=NC=C(C2NCCNC(\C=C\C(F)(F)F)=O)C(=O)N)C | C15H17F3N6O2
